US07163954B2
A mixture of {1-bromo-6-[6-(4,4-dimethyl-pentanoyl)-benzo[b]thiophen-2-yl]-naphthalen-2-yloxy}-acetic acid ethyl ester (0.167 g, 0.310 mmol) and potassium hydroxide (0.056 g, 1.0 mmoles) in THF (20 mL) and water (20 mL) was stirred for one hour at ambient temperature. It was then poured in excess water and acidified with 2N hydrochloric acid. This was then extracted with ethyl acetate and washed with water and brine. The organic phase was dried with anhydrous magnesium sulfate, filtered, solvent evaporated dried in vacuo at 65° C. for 13.5 hours to yield {1-bromo-6-[6-(4,4-dimethyl-pentanoyl)-benzo[b]thiophen-2-yl]-naphthalen-2-yloxy}-acetic acid as a light yellow solid (0.119 g, 74.8%): MP: 246–7° C.; mass spectrum (−EI, [M−H]−) m/z 509/511. −H NMR (500 MHz, DMSO-d6): δ8.74 (s, 1H), 8.40(d, 1H, J=1.68 Hz), 8.21 (d, 1H, J=9.00 Hz), 8.11–8.15 (m, 3H), 7.97–7.98 (m, 2H), 7.48 (d, 1H, J=9.16 Hz), 5.01 (s, 2H), 3.01 (s, 2H), 1.05 ppm (s, 9H). Elemental Analysis for C26H23BrNO4S: Calcd: C, 61.06; H, 4.53; N, 0.00; Found: C, 60.94; H, 4.59; N, 0.00.

reactant | {1-bromo-6-[6-(4,4-dimethyl-pentanoyl)-benzo[b]thiophen-2-yl]-naphthalen-2-yloxy}-acetic acid ethyl ester | 0.310 mmol, 0.167 g | C(C)OC(COC1=C(C2=CC=C(C=C2C=C1)C1=CC2=C(S1)C=C(C=C2)C(CCC(C)(C)C)=O)Br)=O | C29H29BrO4S
reactant | potassium hydroxide | 1.0 mmoles, 0.056 g | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | {1-bromo-6-[6-(4,4-dimethyl-pentanoyl)-benzo[b]thiophen-2-yl]-naphthalen-2-yloxy}-acetic acid | 0.119 g, 74.8% | BrC1=C(C=CC2=CC(=CC=C12)C1=CC2=C(S1)C=C(C=C2)C(CCC(C)(C)C)=O)OCC(=O)O | C27H25BrO4S
